US07615568B2
A. 3-[2-(1-t-Butoxycarbonylpiperidin-4-yloxy)-4-methyl-thiobenzoylamino]-N-(5-chloropyridin-2-yl)-6-methylpyridine-2-carboxamide
Using a procedure analogous to Example 1-G, 2-(1-t-butoxycarbonylpiperidin-4-yloxy)-4-methylthiobenzoic acid and 3-amino-6-methyl-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide gave the title compound as a white solid (7.4 g, 93%).

reactant | 2-(1-t-butoxycarbonylpiperidin-4-yloxy)-4-methylthiobenzoic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=S)O)C=CC(=C1)C | C18H25NO4S
reactant | 3-amino-6-methyl-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide | NC=1C(=NC(=CC1)C)C(=O)NC1=NC=C(C=C1)Cl | C12H11ClN4O
product | 3-[2-(1-t-Butoxycarbonylpiperidin-4-yloxy)-4-methyl-thiobenzoylamino]-N-(5-chloropyridin-2-yl)-6-methylpyridine-2-carboxamide | 7.4 g, 93% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=S)NC=2C(=NC(=CC2)C)C(=O)NC2=NC=C(C=C2)Cl)C=CC(=C1)C | C30H34ClN5O4S
